US05578627
To a solution of 1.7 g of 5-chloro-3-[2-(2-methyl-1,3-thiazol-5-yl)-2-tritylaminoethoxy]-1,2-benzoisoxazole in 17 ml of chloroform and 17 ml of methanol is added 2.05 ml of a 2-propanol solution (7.5N) of hydrogen chloride at room temperature, and they are subjected to reaction at the same temperature for two hours, after which the solvent is removed by distillation under reduced pressure. To the residue obtained is added 2-propanol, and after stirring, the crystals precipitated are collected by filtration, to obtain 0.90 g of colorless, crystalline 5-chloro-3-[2-(2-methyl-1,3-thiazol-5-yl)-2-aminoethoxy]-1,2-benzoisoxazole hydrochloride having a melting point of 212° C.

reactant | 5-chloro-3-[2-(2-methyl-1,3-thiazol-5-yl)-2-tritylaminoethoxy]-1,2-benzoisoxazole | 1.7 g | ClC=1C=CC2=C(C(=NO2)OCC(NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C2=CN=C(S2)C)C1 | C32H26ClN3O2S
reactant | 2-propanol | 7.5N, 2.05 ml | CC(C)O | C3H8O
reactant | hydrogen chloride | Cl | ClH
solvent | chloroform | 17 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 17 ml | CO | CH4O
product | 5-chloro-3-[2-(2-methyl-1,3-thiazol-5-yl)-2-aminoethoxy]-1,2-benzoisoxazole hydrochloride | Cl.ClC=1C=CC2=C(C(=NO2)OCC(N)C2=CN=C(S2)C)C1 | InChI=1S/C13H12ClN3O2S.ClH/c1-7-16-5-12(20-7)10(15)6-18-13-9-4-8(14)2-3-11(9)19-17-13;/h2-5,10H,6,15H2,1H3;1H
